US07348359B2
To a slurry of 74 mg (1.54 mmol) of NaH (50% in mineral oil) in 3 mL of dry DMF was added 285.6 mg (1.27 mmol, 2.5 equivalents) of triethyl phosphonofluoroacetate (diluted in 1 mL of dry DMF) at 0° C. After the gas evolution has ceased, 0.51 mmol of 2-formyl-4-(2-n-propoxy-3,5-di-iso-propylphenyl)-benzo[b]thiophene diluted in 3 mL of dry DMF was added dropwise. The red mixture was slowly heated to 40° C. until complexion. After cooling, water was added and the solution was extracted 2 times with ethyl acetate. The organic layers were combined, washed with water and brine and dried over MgSO4. After evaporation of the solvents, the crude oil is purified over a short plug of silica gel (eluent: 95/5 hexane/ethyl acetate) to afford 2-fluoro-3-[4-(2-n-propoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-prop-2-enoic acid ethyl ester.

reactant | NaH | 1.54 mmol, 74 mg | [H-].[Na+]
reactant | triethyl phosphonofluoroacetate | 1.27 mmol, 1 mL, 285.6 mg, 2.5 equivalents | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | 2-formyl-4-(2-n-propoxy-3,5-di-iso-propylphenyl)-benzo[b]thiophene | 0.51 mmol | C(=O)C1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C(C)C)C(C)C)OCCC | C24H28O2S
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-3-[4-(2-n-propoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-prop-2-enoic acid ethyl ester | C(C)OC(C(=CC1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C(C)C)C(C)C)OCCC)F)=O | C28H33FO3S
